US05223525
d) Preparation of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-amino-4-trifluoromethylsulfenylimidazole
To a solution of 4.8 g (14.91 mmole) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-aminoimidazole in 400 ml of methylene chloride was added 1.3 ml (14.91 mmole) of trifluoromethanesulfenyl chloride at 0° C. The mixture was stirred at 0° C. for 4 h and then at RT for 15 h. Water was added and the mixture was partitioned between water and methylene chloride. The organic layer was dried over anhydrous sodium sulfate and the solvent removed. The residue was recrystallized from methylene chloride to give 3.36 g (52.51% yield) of the desired product., mp 134° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-aminoimidazole | 14.91 mmole, 4.8 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C=NC=C1N | C10H6Cl2F3N3
reactant | trifluoromethanesulfenyl chloride | 14.91 mmole, 1.3 ml | FC(SCl)(F)F | CClF3S
reactant | Water | O | H2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-amino-4-trifluoromethylsulfenylimidazole | 3.36 g, 52.51% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C=NC(=C1N)SC(F)(F)F | C11H5Cl2F6N3S
